US06727264B1
2-METHYL-N-(3-{1-[3-NITRO-4-(1-PIPERIDINYL)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-nitro-4-(1-piperidinyl)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 465.2 (M+H)+.

reactant | 3-nitro-4-(1-piperidinyl)benzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1N1CCCCC1 | C12H14N2O3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[3-NITRO-4-(1-PIPERIDINYL)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC(=C(C=C1)N1CCCCC1)[N+](=O)[O-])C | C27H36N4O3
